US05518653
A mixture of 3.0 g of (2S,3R)-2-octyl-1,3-butanediol, 3.07 g of 4'-cyano-4-biphenylcarboxaldehyde, 0.1 ml of 1N sulfuric acid and 30 ml of toluene was placed under nitrogen in a round flask having a magnetic stirrer, water separator and condenser. The mixture was heated to reflux for 3 hours while separating water. The cooled reaction mixture was poured into aqueous sodium hydrogen carbonate solution and treated with methylene chloride. The aqueous phase was separated and extracted twice with methylene chloride. The combined organic phases were washed twice with water, dried over magnesium sulfate, filtered and evaporated. Recrystallization of the crude product obtained (5.84 g) from a mixture of 200 ml of hexane and 25 ml of ethyl acetate gave 4.97 g of 4'-[(2S,4R,5S)-5-octyl-4-methyl-1,3-dioxan-2-yl]-4-cyanobi-phenyl with m.p. (C-SA) 114.5° C., cl.p. (SA -I) 128.4° C.

reactant | (2S,3R)-2-octyl-1,3-butanediol | 3.0 g | C(CCCCCCC)[C@@H](CO)[C@@H](C)O | C12H26O2
reactant | 4'-cyano-4-biphenylcarboxaldehyde | 3.07 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H9NO
reactant | sulfuric acid | 1N, 0.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | 200 ml | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-[(2S,4R,5S)-5-octyl-4-methyl-1,3-dioxan-2-yl]-4-cyanobi-phenyl | 4.97 g | C(CCCCCCC)[C@@H]1[C@H](O[C@H](OC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C | C26H33NO2
